US06649641B2
Step 5: 1-{4-[(4-tert-Butylcyclohexylamino)methyl]phenyl}-2-[2-(1-methoxy-1-methyl-ethyl)-2H-tetrazol-5-yl]ethanone
To a solution of 2-(1-methoxy-1-methylethyl)-5-methyl-2H-tetrazole (893 mg, 5.7 mmol) in THF (10 ml) cooled to −78° C. on a dry-ice-acetone bath was added dropwise a solution of n-butyl lithium in hexanes (3.6 ml, 1.6 M, 5.7 mmol). The mixture was stirred at −78° C. for 30 min, and at 0° C. for an additional 30 min, then recooled to −78° C. This solution was then slowly transferred (by cannulation) to a solution of N-methoxy-N-methyl-trans-4-{[4-tert-butylcyclohexylamino]methyl}benzamide (760 mg, 2.3 mmol) in THF (15 ml) maintained at −78° C. The reaction mixture was stirred for 30 min at −78° C. and then quenched by the addition of methanol (2 ml). Solvent was removed by rotary evaporation, and the residue was dissolved in ethyl acetate (100 ml). The organic phase was washed once with saturated aqueous sodium hydrogen carbonate (100 ml); dried over anhydrous sodium sulphate and taken to dryness by rotary evaporation to leave 1.0 g (100%) of the title material as an clear oil.

reactant | 2-(1-methoxy-1-methylethyl)-5-methyl-2H-tetrazole | 5.7 mmol, 893 mg | COC(C)(C)N1N=C(N=N1)C | C6H12N4O
reactant | n-butyl lithium | C(CCC)[Li]
reactant | N-methoxy-N-methyl-trans-4-{[4-tert-butylcyclohexylamino]methyl}benzamide | 2.3 mmol, 760 mg | CON(C(C1=CC=C(C=C1)CN[C@@H]1CC[C@H](CC1)C(C)(C)C)=O)C | C20H32N2O2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 1-{4-[(4-tert-Butylcyclohexylamino)methyl]phenyl}-2-[2-(1-methoxy-1-methyl-ethyl)-2H-tetrazol-5-yl]ethanone | 1.0 g, 100% | C(C)(C)(C)C1CCC(CC1)NCC1=CC=C(C=C1)C(CC=1N=NN(N1)C(C)(C)OC)=O | C24H37N5O2
